US06949648B2
3-Methyl-6-(methylsulfonyl)-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
A solution in a mixed solvent of methanol (40 mL), tetrahydrofuran (10 mL) and water (10 mL), of 3-methyl-6-(methylsulfanyl)-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one (1.00 g, 3.10 mmol), and sodium periodate (1.99 g, 9.30 mmol) was heated under reflux for 5 days. The solution was allowed to cool to room temperature, and concentrated under reduced pressure. The residue was poured into water, and the organic matter was extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform to chloroform:methanol=99:1) to give the title compound (0.17 g, 15% yield).

reactant | methanol | 40 mL | CO | CH4O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 3-methyl-6-(methylsulfanyl)-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 3.10 mmol, 1.00 g | CC1=NN(C=2NC3=CC=C(C=C3C(C21)=O)SC)C2=NC=CC=C2 | C17H14N4OS
reactant | sodium periodate | 9.30 mmol, 1.99 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 10 mL | O | H2O
product | 3-Methyl-6-(methylsulfonyl)-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 0.17 g, 15% yield | CC1=NN(C=2NC3=CC=C(C=C3C(C21)=O)S(=O)(=O)C)C2=NC=CC=C2 | C17H14N4O3S
